US08067445B2
Step 5: [2′-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 33, Step 2, using the following starting materials: {4′-bromo-2′-[(tert-butoxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester and bis(pinacolato)diboron.

reactant | {4′-bromo-2′-[(tert-butoxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)Br)CN(CC)C(=O)OC(C)(C)C)=O | C25H32BrNO5
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [2′-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)CN(CC)C(=O)OC(C)(C)C)=O | C31H44BNO7
